US04751223
N-Methyl-7-methyl-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine-6-methanamine dihydrochloride
To a stirred solution of N-[7-formyl-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin-6-ylmethyl]-formamide (8.27 g) in tetrahydrofuran (220 ml) was added borane-dimethylsulfide complex in tetrahydrofuran (2M, 67 ml) at room temperature under nitrogen over a period of 30 minutes. The mixture was stirred at room temperature for 2 hours and thereafter refluxed for 30 minutes. The mixture was cooled to room temperature and treated slowly with methanol to destroy the excess borane. The solvent was removed with a rotary evaporator to afford an oil. This was dissolved in methanol (25 ml) and concentrated hydrochloric acid (8 ml), and the mixture was refluxed for 30 minutes. The mixture was concentrated on a rotary evaporator to dryness (55° C., high vacuum) to afford an oil. The oil was crystallized from a mixture of methanol (small amount) and ether (200 ml) to give 9.27 g of crystals. This solid was recrystallized from hot methanol (25 ml) to give 6.37 g of crystals, m.p. 194°-196.5° C.

reactant | N-[7-formyl-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin-6-ylmethyl]-formamide | 8.27 g | C(=O)N1C2=C(N3C4=C(C1CNC=O)C=CC=C4CC3)C=CC=C2 | C18H17N3O2
reactant | hydrochloric acid | 8 ml | Cl | ClH
solvent | tetrahydrofuran | 220 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2M, 67 ml | O1CCCC1 | C4H8O
solvent | methanol | 25 ml | CO | CH4O
product | N-Methyl-7-methyl-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine-6-methanamine dihydrochloride | 9.27 g | Cl.Cl.CNCC1N(C2=C(N3C4=C1C=CC=C4CC3)C=CC=C2)C | InChI=1S/C18H21N3.2ClH/c1-19-12-17-14-7-5-6-13-10-11-21(18(13)14)16-9-4-3-8-15(16)20(17)2;;/h3-9,17,19H,10-12H2,1-2H3;2*1H
